US06534496B1
A solution of the 3-(1-acetyl-4-piperidinyl)-1-(4-formyl 2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1-propanone (6.77 g) in methanol (100 ml) and concentrated hydrochloric acid (100 ml) were heated together at 80-85° C. for 2 hours. The methanol was then distilled off and the residual aqueous solution was made basic with saturated aqueous solution of potassium carbonate and extracted with ethyl acetate-tetrahydrofuran (2:1). The extract was washed with saturated NaCl/H2O and dried over MgSO4, and the solvent was distilled off under reduced pressure to provide 3-(1-acetyl-4-piperidinyl)-1-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1-propanone (6.04 g) as light-yellow oil.

reactant | 3-(1-acetyl-4-piperidinyl)-1-(4-formyl 2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1-propanone | 6.77 g | C(C)(=O)N1CCC(CC1)CCC(=O)C=1C=CC2=C(CN(CCO2)C=O)C1 | C20H26N2O4
solvent | methanol | 100 ml | CO | CH4O
solvent | hydrochloric acid | 100 ml | Cl | ClH
product | 3-(1-acetyl-4-piperidinyl)-1-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1-propanone | 6.04 g | C(C)(=O)N1CCC(CC1)CCC(=O)C=1C=CC2=C(CNCCO2)C1 | C19H26N2O3
